US08476261B2
A solution of ethyl 9′,10′-difluoro-7′-oxospiro[oxolane-3,3′(2′H)-[7H]pyrido[1,2,3-de][1,4]benzoxazine]-6′-carboxylate (2.90 g, 8.26 mmol) in concentrated H2SO4 (40 mL) was treated portion wise at 0° C. with solid KNO3 (1.17 g, 11.6 mmol). After stirring at 0° C. for 2 h, the reaction mixture was poured into ice-water and the resulting precipitate was collected by filtration, washed with water and dried to yield ethyl 9′,10′-difluoro-8′-nitro-7′-oxospiro[oxolane-3,3′(2′H)-[7H]pyrido-[1,2,3-de][1,4]benzoxazine]-6′-carboxylate (3.20 g, 98%) as a colorless solid. 1H-NMR (400 MHz, DMSO-d6) δ1.26 (3H, t, J=7.3 Hz), 2.41-2.46 (2H, m), 3.78 (1H, d, J=10.4 Hz), 3.92-3.98 (1H, m), 4.09-4.14 (1H, m), 4.21-4.29 (3H, m), 4.62 (1H, d, J=11.6 Hz), 4.72 (1H, d, J=11.6 Hz), 8.53 (1H, s).

reactant | ethyl 9′,10′-difluoro-7′-oxospiro[oxolane-3,3′(2′H)-[7H]pyrido[1,2,3-de][1,4]benzoxazine]-6′-carboxylate | 8.26 mmol, 2.90 g | FC=1C(=C2C=3N(C4(CO2)COCC4)C=C(C(C3C1)=O)C(=O)OCC)F | C17H15F2NO5
reactant | KNO3 | 11.6 mmol, 1.17 g | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 40 mL | OS(=O)(=O)O | H2O4S
product | ethyl 9′,10′-difluoro-8′-nitro-7′-oxospiro[oxolane-3,3′(2′H)-[7H]pyrido-[1,2,3-de][1,4]benzoxazine]-6′-carboxylate | 3.20 g, 98% | FC=1C(=C2C=3N(C4(CO2)COCC4)C=C(C(C3C1[N+](=O)[O-])=O)C(=O)OCC)F | C17H14F2N2O7
